US07642264B2
3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-phenylamine
A mixture of the above prepared 6-methyl-6′-(3-nitro-phenyl)-4-(4-trifluoromethylphenyl)-[2,2′]bipyridinyl (3.4 g, 7.81 mmol) in THF-EtOH 1:1 (100 mL) and 10% palladium on carbon (1 mol %) was hydrogenated (1 bar hydrogen) at 23° C. for 2 h. The catalyst was filtered off, washed with EtOH and the filtrate was completely evaporated totally to leave a crude product, which was purified by silica gel column chromatography with heptane/EtOAc, followed by trituration with diethyl ether to give the title compound as a white solid (2.55 g, 80%). MS (ISP) 406.3 [(M+H)+]; mp 167° C.

reactant | 6-methyl-6′-(3-nitro-phenyl)-4-(4-trifluoromethylphenyl)-[2,2′]bipyridinyl | 7.81 mmol, 3.4 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)C(F)(F)F | C24H16F3N3O2
reactant | hydrogen | [H][H] | H2
solvent | THF EtOH | 100 mL | C1CCOC1.CCO
catalyst | palladium on carbon | [Pd] | Pd
product | 3-[6′-Methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-phenylamine | 2.55 g, 80% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)N)C1=CC=C(C=C1)C(F)(F)F | C24H18F3N3
